US04110457
The starting material is prepared as follows: The mixture of 12.1 g of dl-4-(2-pyridylmethoxy)-amphetamine, 400 ml of absolute ethanol and 10.4 g of β-phenylcinnamaldehyde is treated dropwise under stirring with the solution of 3.5 g of sodium borohydride in 10 ml of water. The whole is then stirred and refluxed overnight, concentrated and the concentrate diluted with water. It is extracted with ethyl acetate, the organic layer washed with saturated aqueous sodium chloride, dried and evaporated to yield the dl-1-[4-(2-pyridylmethoxy)-phenyl]-2-(3,3-diphenylallylamino)-propane.

reactant | 4-(2-pyridylmethoxy)-amphetamine | N1=C(C=CC=C1)COC1=CC=C(CC(N)C)C=C1 | C15H18N2O
reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | β-phenylcinnamaldehyde | 10.4 g | C1(=CC=CC=C1)C(=CC=O)C1=CC=CC=C1 | C15H12O
reactant | sodium borohydride | 3.5 g | [BH4-].[Na+]
solvent | water | 10 ml | O | H2O
product | 1-[4-(2-pyridylmethoxy)-phenyl]-2-(3,3-diphenylallylamino)-propane | N1=C(C=CC=C1)COC1=CC=C(C=C1)CC(C)NCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30N2O
